US04472381
N-t-butyloxycarbonyl-L-alanyl-L-proline benzyl ester (6.4 g, 17 m mole) was dissolved in methanol (100 ml). Hydrogen was passed for 3 hours through the solution in the presence of 10% palladium-carbon as a catalyst. The catalyst was removed by filtration and the filtrate was distilled under reduced pressure leaving a residue. The residue was crystallized in ethyl acetate-n-hexan to give N-t-butyloxycarbonyl-L-alanyl-L-proline (4.5 g, yield: 92.4%) having melting point of 155° to 157° C. and specific rotatory power [α]D25 =-90.5° (C=1, ethanol). The product gave a single spot on thin layer chromatography.

reactant | N-t-butyloxycarbonyl-L-alanyl-L-proline benzyl ester | 6.4 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)C)=O)=O | C20H28N2O5
reactant | Hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | N-t-butyloxycarbonyl-L-alanyl-L-proline | 4.5 g, yield: 92.4% | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C13H22N2O5
